US09428508B2
To a solution of 5-methoxy-3,4-dihydronaphthalen-1(2H)-one (8.3 g, 47.15 mmol) in polyphosphoric acid (100 mL) was added sodium azide (3.6 g, 55.4 mmol) in small portions at 0° C. within 30 minutes. Then the mixture was slowly warmed to room temperature and stirred for another 16 hours, and then poured into ice-water. The precipitate was collected and dried to afford the product 6-methoxy-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one as a white solid (6.8 g, yield 75.5%). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.48 (s, 1H), 7.13-7.17 (t, 1H, J=8.0 Hz), 6.77-6.79 (d, 1H, J=7.6 Hz), 6.58-6.60 (d, 1H, J=7.6 Hz), 3.78 (s, 3H), 2.68-2.72 (t, 2H, J=6.8 Hz), 2.11-2.14 (t, 2H, J=7.2 Hz), 1.99-2.05 (m, 2H).

reactant | 5-methoxy-3,4-dihydronaphthalen-1(2H)-one | 47.15 mmol, 8.3 g | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | sodium azide | 55.4 mmol, 3.6 g | [N-]=[N+]=[N-].[Na+]
product | 6-methoxy-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one | 6.8 g, yield 75.5% | COC1=CC=CC=2NC(CCCC21)=O | C11H13NO2
